US07618982B2
N-(tert-butoxycarbonyl)-DL-aspartic acid
DL aspartic acid acid (1 g) was dissolved in 20 mL of dioxane/water 1:1 and 4.15 mL of triethylamine was added. The mixture was cooled to 0° C. and 2.4 g of di-tert-butyl dicarbonate added. The solution was left at room temperature overnight. The suspension was concentrated and extracted with ethyl acetate and water. The aqueous extract was acidified with 5% aq. NaHSO4 and then extracted with AcOEt three times. The organic extracts were dried over anh. sodium sulfate and the solvent evaporated under vacuum to provide 1.53 g of the title compound.

reactant | DL aspartic acid | 1 g | NC(CC(=O)O)C(=O)O | C4H7NO4
reactant | di-tert-butyl dicarbonate | 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 20 mL | O1CCOCC1.O
solvent | triethylamine | 4.15 mL | C(C)N(CC)CC | C6H15N
product | N-(tert-butoxycarbonyl)-DL-aspartic acid | 1.53 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)C(=O)O | C9H15NO6
